US06307047B1
2-(4-Fluorophenyl)-4-(3-methylbutoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 335, starting with 2-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-4-tosyloxy-3(2H)-pyridazinone in place of 2-(3-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-4-tosyloxy-3(2H)-pyridazinone substituting 3-methyl-1-butanol in place of isobutanol (yield: 0.3932 g, 94%). mp 117-120° C. 1H NMR (300 MHz, DMSO d6) δ 0.79 (d, J=6 Hz, 6H), 1.41-1.59 (m, 3H), 3.30 (s, 3H), 4.42 (d, J=5 Hz, 2H), 7.36 (m, 2H), 7.65 (m, 2H), 7.90 (m, 2H), 8.06 (m, 2H), 8.18 (s, 1H). MS (DCI/NH3) m/z 431 (M+H)+, 448 (M+NH4)+. Anal. calc. for C22H23FN2O4S: C, 61.38; H, 5.39; N, 6.51. Found: C, 61.42; H, 5.30; N, 6.40.

reactant | 2-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-4-tosyloxy-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H19FN2O6S2
reactant | NH3 | N | H3N
product | 2-(4-Fluorophenyl)-4-(3-methylbutoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OCCC(C)C)C1=CC=C(C=C1)S(=O)(=O)C | C22H23FN2O4S
